US09079853B2
5-chloro-1-ethyl-3-(3-methoxybenzyl)-2-oxoindolin-3-yl benzoate
This compound was made in an analogous fashion to 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate using 5-chloro-1-ethyl-2-oxoindolin-3-yl benzoate and 3-methoxy benzyl chloride (purchased from Fisher Scientific). 1H NMR δ 8.06 (d, 2H), 7.61 (t, 1H), 7.46 (t, 2H), 7.25 (dd, 1H), 7.09 (t, 1H), 7.02 (d, 1H), 6.76 (dd, 1H), 6.64 (m, 2H), 6.52 (s, 1H), 3.72 (m, 4H), 3.57 (m, 2H), 3.27 (d, 1H), 1.04 (t, 3H). Calculated mass for C25H22NClO4, 435.12. Observed 458.1 (M+Na).

reactant | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
reactant | 5-chloro-1-ethyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)Cl)CC)=O | C17H14ClNO3
reactant | 3-methoxy benzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | 5-chloro-1-ethyl-3-(3-methoxybenzyl)-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)Cl)CC)=O)CC1=CC(=CC=C1)OC | C25H22ClNO4
